US08349824B2
A mixture of 5-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (70 mg, 213 μmol), pyrrolidine (70.5 μl, 853 μmol), propylphosphonic anhydride (50% in ethyl acetate, 314 μl, 533 μmol) and diisopropylethylamine (112 μl, 640 μmol) in tetrahydrofurane (4 ml) is stirred for 3.5 days at 25° C. The solvent is evaporated and the residue stirred for 1 hr with sat. aqueous sodium hydrogencarbonate solution. The precipitated solid is collected by filtration, washed with water and dried affording N-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-4-(pyrrolidine-1-carbonyl)-1H-pyrazole-5-carboxamide (76 mg, 93.5%) as a white solid. Mp.: 141-3° C. MS: m/z=380.3 (M−H+).

reactant | 5-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 213 μmol, 70 mg | C(C)(C)C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C15H16N6O3
reactant | pyrrolidine | 853 μmol, 70.5 μl | N1CCCC1 | C4H9N
reactant | propylphosphonic anhydride | 533 μmol, 314 μl | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethylamine | 640 μmol, 112 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
product | N-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-4-(pyrrolidine-1-carbonyl)-1H-pyrazole-5-carboxamide | 76 mg, 93.5% | C(C)(C)C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)N2CCCC2)=N1 | C19H23N7O2
